US04735952
4-[[7-(Trifluoromethyl)-4-quinolyl]amino]benzoyl chloride hydrochloride (0.69 g) was added slowly to a stirred mixture of 4-[(2-pyridyl)sulfinyl]piperidine hydrochloride (0.50 g) and triethylamine (1.72 ml) in dry methylene chloride (22 ml) at room temperature. The resultant mixture was stirred at the same temperature for 1.5 hours and concentrated in vacuo. The residue was partitioned between chloroform and water. The organic layer was washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, and concentrated to dryness in vacuo. The resultant crystalline residue was recrystallized from a mixture of methylene chloride and methanol and washed successively with methanol and methylene chloride to give 4-[(2-pyridyl(sulfinyl]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine (0.59 g).

reactant | 4-[[7-(Trifluoromethyl)-4-quinolyl]amino]benzoyl chloride hydrochloride | 0.69 g | Cl.FC(C1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C(=O)Cl)C=C1)(F)F
reactant | 4-[(2-pyridyl)sulfinyl]piperidine hydrochloride | 0.50 g | Cl.N1=C(C=CC=C1)S(=O)C1CCNCC1
reactant | triethylamine | 1.72 ml | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 22 ml | C(Cl)Cl | CH2Cl2
product | 2-pyridyl(sulfinyl]-1-[4-[[7-(trifluoromethyl)-4-quinolyl]amino]benzoyl]piperidine | 0.59 g | N1=C(C=CC=C1)C1C(N(CCC1)C(C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F)=O)=S=O | C27H21F3N4O2S
